US05883092
Synthesis of 4-t-butyl-N-[2-(4-formylpiperazinyl)-6-(3-hydroxypropyloxy)-5-(2-methoxyphenoxy)-4-pyrimidinyl]benzenesulfonamide
The procedure described in Synthesis Example 3 was repeated by use of 4-t-butyl-N-[6-chloro-2-(4-formylpiperazinyl)-5-(2-methoxyphenoxy)-4-pyrimidinyl]benzenesulfonamide and 1,3-propanediol, to thereby obtain the title compound as a pale yellow solid.

reactant | 4-t-butyl-N-[6-chloro-2-(4-formylpiperazinyl)-5-(2-methoxyphenoxy)-4-pyrimidinyl]benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)N1CCN(CC1)C=O | C26H30ClN5O5S
reactant | 1,3-propanediol | C(CCO)O | C3H8O2
product | 4-t-butyl-N-[2-(4-formylpiperazinyl)-6-(3-hydroxypropyloxy)-5-(2-methoxyphenoxy)-4-pyrimidinyl]benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCCO)N1CCN(CC1)C=O | C29H37N5O7S
